US04410539
NaH (0.34 g.:50% dispersion in oil) was added portion-wise to a stirred solution of imidazole (0.48 g.) in dry dimethylformamide (DMF) (20 ml.). After 1/2 hour a solution of 5-bromomethylbenzo[b]thiophene-2-carboxylic acid methyl ester (2.0 g.) in DMF (15 ml.) was added dropwise. After stirring at room temperature for 1 hour, the solvent was removed under reduced pressure and H2O (100 ml.) added to the residue. The aqueous solution was then extracted with EtOAc (3×50 ml.) and the combined organic extracts were washed (H2O), dried (MgSO4), filtered and evaporated to give a solid which was recrystallized from MeOH/H2O to give 5-(1-imidazolylmethyl)benzo[b]thiophene-2-carboxylic acid methyl ester, 0.7 g., m.p. 168°-169° C.

reactant | NaH | 0.34 g | [H-].[Na+]
reactant | imidazole | 0.48 g | N1C=NC=C1 | C3H4N2
reactant | 5-bromomethylbenzo[b]thiophene-2-carboxylic acid methyl ester | 2.0 g | COC(=O)C1=CC2=C(S1)C=CC(=C2)CBr | C11H9BrO2S
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | DMF | 15 ml | CN(C=O)C | C3H7NO
product | 5-(1-imidazolylmethyl)benzo[b]thiophene-2-carboxylic acid methyl ester | COC(=O)C1=CC2=C(S1)C=CC(=C2)CC=2NC=CN2 | C14H12N2O2S
